US06713508B2
Step C: 3-Bromopropyl 2-chloro-4-(2,2,2-trifluoroethoxy)phenyl ether
To a 110 ml DMF solution of 2-chloro-4-(2,2,2-trifluoroethoxy)phenol (5 g, 22.1 mmol) was added 1,3-dibromopropane (11.2 ml, 110 mmol) and cesium carbonate (9.34 g, 28.7 mmol). The resulting suspension was heated to 70° C. for 5 hr. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and 2N hydrochloric acid. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on silica gel eluting with 10% dichloromethane/hexanes to give the title compound as a clear oil 4.37 g (57%).

reactant | 2-chloro-4-(2,2,2-trifluoroethoxy)phenol | 22.1 mmol, 5 g | ClC1=C(C=CC(=C1)OCC(F)(F)F)O | C8H6ClF3O2
reactant | 1,3-dibromopropane | 110 mmol, 11.2 ml | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 28.7 mmol, 9.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
product | 3-Bromopropyl 2-chloro-4-(2,2,2-trifluoroethoxy)phenyl ether | 4.37 g, 57% | ClC1=C(C=CC(=C1)OCC(F)(F)F)OCCCBr | C11H11BrClF3O2
